US06734303B2
Preparation of N-(2-amidino-1,2.3,4-tetrahydro-5-isoquinolyl)methanesulfonamide
To a stirred suspension of N-(1,2,3,4-tetrahydro-5-isoquinolyl)methanesulfonamide hydrochloride prepared as described in Example 19(b) of WO 98/30560 (100 g, 0.38 mol) and 2-methyl-2-thiopseudourea sulfate (159 g, 0.57 mol) in water (1.5 liter) was added 2N aqueous sodium hydroxide (764 ml, 1.53 mol). The resulting solution was warmed to 80° C. and stirred at this temperature for 6 hours and then left to cool to room temperature overnight. Further 2-methyl-2-thiopseudourea sulfate (27 g, 0.10 mol) and 2N aq. sodium hydroxide (48 ml, 0.10 mol) were charged and the mixture heated at 80° C. for 1 hour. After this time the resulting suspension was cooled to room temperature, filtered, washed with water (1 liter) to give a white solid that was dried in vacuo overnight at 50° C. to give 91.0 g of the title product (89%).

reactant | N-(1,2,3,4-tetrahydro-5-isoquinolyl)methanesulfonamide hydrochloride | Cl.C1NCCC2=C(C=CC=C12)NS(=O)(=O)C
reactant | 2-methyl-2-thiopseudourea sulfate | 0.57 mol, 159 g | S(=O)(=O)(O)O.CSC(N)=N
reactant | sodium hydroxide | 1.53 mol, 2N, 764 ml | [OH-].[Na+]
reactant | 2-methyl-2-thiopseudourea sulfate | 0.10 mol, 27 g | S(=O)(=O)(O)O.CSC(N)=N
reactant | sodium hydroxide | 0.10 mol, 2N, 48 ml | [OH-].[Na+]
solvent | water | 1.5 liter | O | H2O
product | N-(2-amidino-1,2.3,4-tetrahydro-5-isoquinolyl)methanesulfonamide | 91.0 g, 89% | C(N)(=N)N1CC2=CC=CC(=C2CC1)NS(=O)(=O)C | C11H16N4O2S
